US04667020
85.9 parts n-butyl bromide are added to a suspension of 91 parts of potassium dithiocarbazate in 900 parts of N-methylpyrrolidone, while cooling with ice, and the mixture is then stirred for 2 hours at room temperature. Thereafter, 116.7 parts of p-nitrobenzoyl chloride are added while cooling with ice, stirring is continued for a further 2 hours at room temperature, and the reaction mixture is poured into 3,000 parts of ice water. The butyl 3-(p-nitrobenzoyl)-dithiocarbazate initially obtained as an oil crystallizes on standing overnight, and is then filtered off under suction and washed with water. The residue is sucked thoroughly dry and then introduced into 1,000 parts of concentrated sulfuric acid, the mixture is stirred for 1 hour at 50° C. and then poured into 3,000 parts of ice water, and the precipitate is filtered off under suction, dried, and recrystallized from glacial acetic acid. 130 parts (70% of theory) of pure 2-butylthio-5-(p-nitrophenyl)-1,3,4-thiadiazole of melting point 140° C. are obtained.

reactant | n-butyl bromide | C(CCC)Br | C4H9Br
reactant | potassium dithiocarbazate | C(NN)(=S)[S-].[K+]
reactant | p-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | butyl 3-(p-nitrobenzoyl)-dithiocarbazate | [N+](=O)([O-])C1=CC=C(C(=O)NNC(=S)SCCCC)C=C1 | C12H15N3O3S2
